US06906121B2
Preparation of N-{4[(acetyloxy)imino]-2,5-cyclohexadien-1-ylidene}aniline
A solution was prepared by mixing 4-nitrosodiphenylamine, 19.8 grams, (0.10 mole), pyridine, 8.6 grams, (0.11 mole), and toluene, 10 mL, in a suitable reaction flask. The solution was cooled to 5° C. and acetic anhydride, 11.22 grams, (0.11 mole) was added slowly. The mixture was stirred for 2 hours and allowed to come to room temperature. The reaction mixture was mixed with a quantity of water, allowed to stand until the water layer separated, and the water layer was discarded. The toluene solution was evaporated to leave 21.4 grams of a solid residue, 96% of theory. The material melted at 63-65° C.

reactant | 4-nitrosodiphenylamine | C1=CC=C(C=C1)NC2=CC=C(C=C2)N=O | C12H10N2O
reactant | pyridine | 0.10 mole, 19.8 grams | N1=CC=CC=C1 | C5H5N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | N-{4[(acetyloxy)imino]-2,5-cyclohexadien-1-ylidene}aniline | 21.4 grams | C(C)(=O)ON=C1C=CC(C=C1)=NC1=CC=CC=C1 | C14H12N2O2
